US08071608B2
Intermediate BO1: (2S)-2-[1-(2-bromo-6-chlorophenyl)pyrazolo[4,5-e]pyrimidin-4-yl]oxy-N-(5-methylpyrazin-2-yl)-3-[(2R)-1-tri(propan-2-yl)silyloxypropan-2-yl]oxypropanamide
Sodium hydride (0.875 g, 21.87 mmol) was added to (S)-2-hydroxy-N-(5-methylpyrazin-2-yl)-3-((R)-1-(triisopropylsilyloxy)propan-2-yloxy)propanamide (Intermediate AZ2) (3.0 g, 7.29 mmol) in anhydrous THF (35 mL) at 0° C. under nitrogen. The resulting solution was stirred at 0° C. for 10 minutes and then a solution of 1-(2-bromo-6-chlorophenyl)-4-chloro-1H-pyrazolo[3,4-d]pyrimidine (Intermediate BO2) (2.507 g, 7.29 mmol) in anhydrous THF (20 mL) was added dropwise over 1 minute. The mixture was stirred at 0° C. for 10 minutes and then allowed to warm to ambient temperature for 6 hours. It was then cooled to ˜0° C., the mixture poured into ice cold 1M citric acid and diluted with EtOAc (50 mL). It was stirred vigorously for 10 minutes. The organic phase was separated, washed with water and brine, dried over MgSO4, filtered and evaporated. The crude product was purified by flash silica chromatography, elution gradient 20 to 50% EtOAc in isohexane to afford the product (4.90 g, 93%).

reactant | Sodium hydride | 21.87 mmol, 0.875 g | [H-].[Na+]
reactant | (S)-2-hydroxy-N-(5-methylpyrazin-2-yl)-3-((R)-1-(triisopropylsilyloxy)propan-2-yloxy)propanamide | 7.29 mmol, 3.0 g | O[C@H](C(=O)NC1=NC=C(N=C1)C)CO[C@@H](CO[Si](C(C)C)(C(C)C)C(C)C)C | C20H37N3O4Si
reactant | 1-(2-bromo-6-chlorophenyl)-4-chloro-1H-pyrazolo[3,4-d]pyrimidine | 7.29 mmol, 2.507 g | BrC1=C(C(=CC=C1)Cl)N1N=CC=2C1=NC=NC2Cl | C11H5BrCl2N4
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | (2S)-2-[1-(2-bromo-6-chlorophenyl)pyrazolo[4,5-e]pyrimidin-4-yl]oxy-N-(5-methylpyrazin-2-yl)-3-[(2R)-1-tri(propan-2-yl)silyloxypropan-2-yl]oxypropanamide | 4.90 g, 93% | BrC1=C(C(=CC=C1)Cl)N1N=CC=2C(=NC=NC21)O[C@H](C(=O)NC2=NC=C(N=C2)C)CO[C@@H](CO[Si](C(C)C)(C(C)C)C(C)C)C | C31H41BrClN7O4Si
